US05532236
d. 2-Ethoxalylamino-5-(1H-imidazol-1-yl)-nitrobenzene
1-Ethoxalylamino-4-(1H-imidazol-1-yl)-benzene (16 g; 61.8 mmol) was added gradually to 100 ml nitric acid (d=1.52) at 0° C. Stirring was continued at 0° C. for 1 h, and then the reaction mixture was poured into ice-water to give the title compound (18 g; 80%) as a nitric acid salt. M.p. 180° C. (decomp.).

reactant | 1-Ethoxalylamino-4-(1H-imidazol-1-yl)-benzene | 61.8 mmol, 16 g | C(=O)(C(=O)OCC)NC1=CC=C(C=C1)N1C=NC=C1 | C13H13N3O3
reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
product | 2-Ethoxalylamino-5-(1H-imidazol-1-yl)-nitrobenzene | 18 g, 80% | C(=O)(C(=O)OCC)NC1=C(C=C(C=C1)N1C=NC=C1)[N+](=O)[O-] | C13H12N4O5
